US08809342B2
To a solution of 2,6-dimethyl-4-nitro-4′-(trifluoromethyl)biphenyl (600 mg, 2.03 mmol) in ethanol (20 mL) was added 10 wt % palladium on carbon (18 mg). The reaction was pressurized to 50 psi hydrogen and stirred at room temperature overnight. The reaction was filtered onto Celite and concentrated. Purification by column chromatography gave 2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-amine (480 mg, 89%) as a light yellow solid. 1H NMR (400 MHz, CDCl3, δ): 7.65 (d, 2H), 7.27 (s, 1H), 7.25 (s, 1H), 6.48 (s, 2H), 3.80 (s, 2H), 1.94 (s, 6H). MS (M+1): 266.1.

reactant | 2,6-dimethyl-4-nitro-4′-(trifluoromethyl)biphenyl | 2.03 mmol, 600 mg | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 18 mg | [Pd] | Pd
product | 2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-amine | 480 mg, 89% | CC1=C(C(=CC(=C1)N)C)C1=CC=C(C=C1)C(F)(F)F | C15H14F3N
